US09340538B2
3-(4-((6-(2-chloro-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-3-yl)propanoic acid
Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.92 g, 2 mmol) was reacted with 3-(morpholin-3-yl)propanoic acid hydrochloride (0.39 g, 2 mmol) according to the procedure as described in Example 1, Step C to give the title compound as a yellow solid (0.45 g, 42%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 2 mmol, 0.92 g | BrCC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=C(C=C1)F)Cl)C(=O)OCC | C17H14BrClFN3O2S
reactant | 3-(morpholin-3-yl)propanoic acid hydrochloride | 2 mmol, 0.39 g | Cl.N1C(COCC1)CCC(=O)O
product | 3-(4-((6-(2-chloro-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-3-yl)propanoic acid | 0.45 g, 42% | ClC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1C(COCC1)CCC(=O)O)C(=O)OCC | C24H26ClFN4O5S
